US04689349
EXAMPLE 29 (4-Chloro-1-butyloxy)(2,2-dimethylethyl)dimethylsilane {(4chlorobutoxy)(1,1-dimethylethyl)dimethylsilane}
The procedure followed is the same as that described in Example 19 substituting 4-chlorobutanol (326 g, 3.00 moles), tert-butyldimethylsilyl chloride (500 g, 3.31 moles), imidazole (225 g, 3.30 mmoles), and dimethylformamide (1600 ml). The crude product is fractionally distilled under reduced vacuum leaving a clear, colorless oil (476 g, 2.13 moles), BP 60° C./0.3 mm.

reactant | 4-chlorobutanol | 3.00 moles, 326 g | ClCCCCO | C4H9ClO
reactant | tert-butyldimethylsilyl chloride | 3.31 moles, 500 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 3.30 mmoles, 225 g | N1C=NC=C1 | C3H4N2
reactant | dimethylformamide | 1600 ml | CN(C=O)C | C3H7NO
product | (4-Chloro-1-butyloxy)(2,2-dimethylethyl)dimethylsilane | 2.13 moles, 476 g | ClCCCCO[Si](C)(C)CC(C)C | C10H23ClOSi
